Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:10][C:11]([H:12])[H:13].[H:9],2.20008233189
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]1([H:3])[O:4][C:5][C:6]1[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-0.12398455449
[O:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1].[O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],2.75017974008
[C:1]#[C:2][C:4]([H:5])[C:6]#[C:7][H:8].[C:3]>>[C:1][C:2]#[C:3][C:4]([H:5])[C:6]#[C:7][H:8],-6.59686862579
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:13].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12],4.64564080834
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:6].[O:1][O:2][C:3][C:4]([H:5])[C:7]([H:8])([H:9])[H:10],2.24748538134
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6](=[O:7])[C:9]([H:10])([H:11])[H:12],2.15467664538
[C:1](#[C:2]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[H:3]>>[C:1]=[C:2]([H:3])[C:4]([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],2.25494183085
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:3]([H:4])([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:1][O:2],2.7010726483
[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.016841758
[C:5]([H:6])([H:7])=[C:8][O:9][H:10].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10],-2.57474890981
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13],-1.70031135595
[H:1][O:2]/[C:3]=[C:4](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:5]>>[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-2.93591717481
[H:1][C:2]#[C:3][C:4]([H:5])([O:6][H:7])[O:8][H:9]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[O:8].[H:9],4.62696039371
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:8][C:9]([H:10])([H:11])[H:12].[H:7],2.21015008213
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@@:7]1([C:8]([H:9])([H:10])[H:11])[C:12][C:13]1([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])=[C:12]=[C:13]([H:14])[H:15],-2.89591611671
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][O:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[O:9][O:10][H:11],2.9351878296
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3](/[C:4]([H:5])=[C:6](\[H:7])[O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:8],3.40050819557
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-4.57027841932
[O:1][C:2]([H:3])([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2]([H:3])([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[O:1],4.105829139080002
[H:1][C:2]([H:3])[O:4][C@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11],2.9733760566400003
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10][H:11],5.15219229296
[H:11].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.84735089334
[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.97409797061
[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:7]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.73736510264
[H:1][O:2][C:3][O:5][C:6][C:7]([H:8])([H:9])[H:10].[H:4]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10],-3.27558217809
[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][H:8].[O:1]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[O:7][H:8],-7.2168686186
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11]>>[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[O:10],0.938400062478
[C:4]([H:5])([H:6])[H:7].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[H:7],-5.34315822682
